US04053312
C. 1-[4-acetamido-5-hydroxy-6-(o-methoxyphenylazo)-naphthalene-1-sulfonamido]-8-hexadecanesulfonamido-2-naphthol
To a solution of 0.85 g (0.0018 mole) crude 1-amino-8-hexadecanesulfonamido-2-naphthol in 16 ml pyridine at 0° C was added 0.81 g (0.0018 mole) 4-acetamido-5-hydroxy-6-(o-methoxyphenylazo)naphthalene-1-sulfonyl chloride. The mixture was stirred overnight at room temperature, then poured in ice water containing 18 ml concentrated hydrochloric acid. The product was dried and triturated first with hot 1:1 dioxaneisopropyl alcohol and then with hot methanol to give 0.85 g of product, m.p. 177°-180° C.

reactant | 1-amino-8-hexadecanesulfonamido-2-naphthol | 0.0018 mole, 0.85 g | NC1=C(C=CC2=CC=CC(=C12)NS(=O)(=O)CCCCCCCCCCCCCCCC)O | C26H42N2O3S
reactant | 4-acetamido-5-hydroxy-6-(o-methoxyphenylazo)naphthalene-1-sulfonyl chloride | 0.0018 mole, 0.81 g | C(C)(=O)NC1=CC=C(C2=CC=C(C(=C12)O)N=NC1=C(C=CC=C1)OC)S(=O)(=O)Cl | C19H16ClN3O5S
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-acetamido-5-hydroxy-6-(o-methoxyphenylazo)-naphthalene-1-sulfonamido]-8-hexadecanesulfonamido-2-naphthol | 0.85 g | C(C)(=O)NC1=CC=C(C2=CC=C(C(=C12)O)N=NC1=C(C=CC=C1)OC)S(=O)(=O)NC1=C(C=CC2=CC=CC(=C12)NS(=O)(=O)CCCCCCCCCCCCCCCC)O | C45H57N5O8S2
